US06437171B1
To a solution of 0.445 ml (5 mmol) cis-2,3-dimethyl-oxirane in 5 ml tetrahydrofuran was added at room temperature 0.26 g (1 mmol) magnesium bromide diethyl etherate. The mixture was treated under argon with stirring with 0.67 ml (5.5 mmol) (S)-(−)-1-phenyl-ethylamine. The yellow suspension was heated at 90° C. in a closed container for 110 hours, whereby after 21 and 64 hours 0.25 ml and 0.122 ml respectively of cis-2,3-dimethyl-oxirane was added. The reaction mixture was cooled to room temperature and stirred vigorously with 5 ml of 5N aqueous ammonium chloride solution for 10 minutes. The organic phase was separated, dried over 2 g of sodium sulfate, filtered and evaporated in a rotary evaporator to obtain 0.58 g of 3-(1-phenyl-ethylamino)-butan-2-ol as a mixture of diastereoisomers as a brown oil. The oily residue was separated by chromatography on a silica gel column using ethyl acetate as the eluent to obtain the two diastereoisomers A and B as yellowish oils.

reactant | cis-2,3-dimethyl-oxirane | 5 mmol, 0.445 ml | C[C@@H]1O[C@@H]1C | C4H8O
reactant | magnesium bromide diethyl etherate | 1 mmol, 0.26 g | CCOCC.[Mg+2].[Br-].[Br-]
reactant | (S)-(−)-1-phenyl-ethylamine | 5.5 mmol, 0.67 ml | C1(=CC=CC=C1)[C@H](C)N | C8H11N
reactant | ammonium chloride | 5N, 5 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 3-(1-phenyl-ethylamino)-butan-2-ol | 0.58 g | C1(=CC=CC=C1)C(C)NC(C(C)O)C | C12H19NO
